US04198415
46.5 g. of the isomer mixture containing about 60 percent of 6-benzoyloxy-3,4,5,6,7,8-hexahydro-1H-quinoline-2-one and 40% of the 3,4,4a,5,6,7-hexahydro isomer were dissolved in 400 ml. of tetrahydrofuran (THF). 80 ml. of methyl iodide were added and the resulting mixture cooled in an ice-water bath. 9.6 g of sodium hydride (as a 50 percent suspension in mineral oil) were added in portions. After all of the sodium hydride suspension had been added, the cooling bath was removed and the reaction mixture stirred at ambient temperature under a nitrogen atmosphere for about 4 hours. The reaction mixture was then diluted with water and the aqueous mixture thoroughly extracted with chloroform. The chloroform extracts were combined and the combined extracts washed with saturated aqueous sodium chloride and then dried. The chloroform was removed by evaporation to dryness in vacuo leaving as a residue an orange oil weighing 47.3 g. Crystallization of the residue from an ether-hexane solvent mixture yielded crystals of 1-methyl-6-benzoyloxy-3,4,5,6,7,8-hexahydro-2(1H)-quinolinone and the corresponding 3,4,4a,5,6,7-hexahydro isomer.

reactant | 6-benzoyloxy-3,4,5,6,7,8-hexahydro-1H-quinoline-2-one | C(C1=CC=CC=C1)(=O)OC1CC=2CCC(NC2CC1)=O | C16H17NO3
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | 9.6 g | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-methyl-6-benzoyloxy-3,4,5,6,7,8-hexahydro-2(1H)-quinolinone | CN1C(CCC=2CC(CCC12)OC(C1=CC=CC=C1)=O)=O | C17H19NO3
